### PR TITLE
feat: add BitVec induction cons|concat induction principles

### PR DESCRIPTION
**Pull request by tobiasgrosser**
This PR introduces two induction principles for bitvectors, based on the concat and cons operations. We show how this principle can be useful to reason about bitvectors by refactoring two population count lemmas (`cpopNatRec_zero_le` and `toNat_cpop_append`) and introducing a new lemma (`toNat_cpop_not`).
To use the induction principle we also move `cpopNatRec_cons_of_le` and `cpopNatRec_cons_of_lt` earlier in the popcount section (they are the building blocks enabling us to take advantage of the new induction principle).

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ✅ Mathlib branch [lean-pr-testing-11767](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11767) has successfully built against this PR. (2025-12-22 12:34:38) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/20429881006)
- ✅ Mathlib branch [lean-pr-testing-11767](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11767) has successfully built against this PR. (2026-01-08 18:23:29) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/20825368599)
- ✅ Mathlib branch [lean-pr-testing-11767](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11767) has successfully built against this PR. (2026-01-10 17:54:16) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/20881123564)
- ✅ Mathlib branch [lean-pr-testing-11767](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11767) has successfully built against this PR. (2026-01-11 13:07:06) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/20894717858)

File: src/Init/Data/BitVec/Bootstrap.lean [hunk 1]
```diff
@@ -159,4 +159,18 @@ theorem setWidth_neg_of_le {x : BitVec v} (h : w ≤ v) : BitVec.setWidth w (-x)
     omega
   omega
 
+@[induction_eliminator]
+theorem cons_induction (P : {w : Nat} → (BitVec w) → Prop)
+    (base : P 0#0)
+    (cons: ∀ {w : Nat} (b : Bool) (bv : BitVec w), P bv → P (bv.cons b)) :
+    ∀ {w : Nat} (x : BitVec w), P x := by
```
Comment (Rob23oba) [inline src/Init/Data/BitVec/Bootstrap.lean]:
```suggestion
theorem cons_induction {motive : (w : Nat) → BitVec w → Prop} (nil : motive 0 .nil)
    (cons : ∀ {w : Nat} (b : Bool) (bv : BitVec w), motive w bv → motive (w + 1) (.cons b bv)) :
    ∀ {w : Nat} (x : BitVec w), motive w x := by
```
Just to make this fit with the eliminator convention found elsewhere (in particular have motive parameters be explicit, the motive itself implicit and the minor premises named after the corresponding constants). Also I felt like `BitVec.nil` might be better base case here.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -3359,6 +3359,26 @@ theorem extractLsb'_concat {x : BitVec (w + 1)} {y : Bool} :
...
+  ext i hw
+  by_cases h : i = 0
+  · simp [h]
+  · simp [h, hw, show (1 + (i - 1)) = i by omega, getElem_concat]
+
+@[elab_as_elim]
+theorem concat_induction (P : {w : Nat} → (BitVec w) → Prop)
+    (base : P 0#0)
+    (concat: ∀ {w : Nat} (b : Bool) (bv : BitVec w), P bv → P (bv.concat b)) :
+    ∀ {w : Nat} (x : BitVec w), P x := by
```
Comment (Rob23oba) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem concat_induction {motive : (w : Nat) → BitVec w → Prop} (nil : motive 0 .nil)
    (concat : ∀ {w : Nat} (bv : BitVec w) (b : Bool), motive w bv → motive (w + 1) (bv.concat b)) :
    ∀ {w : Nat} (x : BitVec w), motive w x := by
```
Same idea

File: src/Init/Data/BitVec/Bootstrap.lean [hunk 3]
```diff
@@ -159,4 +159,18 @@ theorem setWidth_neg_of_le {x : BitVec v} (h : w ≤ v) : BitVec.setWidth w (-x)
     omega
   omega
 
+@[induction_eliminator]
```
Comment (Rob23oba) [inline src/Init/Data/BitVec/Bootstrap.lean]:
```suggestion
@[induction_eliminator, elab_as_elim]
```

File: src/Init/Data/BitVec/Bootstrap.lean (hunk 1 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bootstrap.lean]: addressed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: addressed

File: src/Init/Data/BitVec/Bootstrap.lean (hunk 3 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bootstrap.lean]: addressed

**Comment by luisacicolini** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -6388,7 +6432,7 @@ theorem cpopNatRec_le {x : BitVec w} (n : Nat) :
   · case succ n ihn =>
     have : (x.getLsbD n).toNat ≤ 1 := by cases x.getLsbD n <;> simp
     specialize ihn (acc := acc + (x.getLsbD n).toNat)
-    simp
+    simp [cpopNatRec_succ]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    simp
```

**Comment by tobiasgrosser** [comment]
@Rob23oba, we addressed your comments. Thank you for the review!
